US08557805B2
7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid
To a solution of ethyl 7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylate (3.9 g), methanol (30 mL), and tetrahydrofuran (50 mL) was added aqueous solution (20 mL) of potassium hydroxide (2.0 g), and the mixture was stirred at room temperature for 15 hr. The reaction solution was concentrated, acidified with aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained pale-yellow crystals were washed with ethyl acetate-hexane to give the title compound (3.30 g, yield 92%) as pale-yellow crystals.

reactant | ethyl 7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylate | 3.9 g | CC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC=1C=NC(=CC1)S(=O)(=O)C | C18H18N2O5S
reactant | methanol | 30 mL | CO | CH4O
reactant | potassium hydroxide | 20 mL, 2.0 g | [OH-].[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid | 3.30 g, yield 92% | CC=1C=C(C=C2C=C(NC12)C(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C16H14N2O5S
